US05981533
Under a N2 atmosphere, a suspension of 1.87 g (8.16 mmol) of 5-amino-3-(4-methoxy-phenyl)-1H-pyrazole-4-carbonitrile (for preparation see: J. Heterocyclic Chem. 27, 647 (1990)) in 33 ml of toluene is boiled under reflux for 3.5 hours with 1.64 ml of N,N-dimethylformamide diethyl acetal (95%; 9.1 mmol). Crystallization by cooling to 0° C., filtering with suction and washing with hexane yield N'-[3-(4-methoxy-phenyl)-4-cyano-1H-pyrazol-5-yl]-N,N-dimethylformamidine; m.p. 169-171° C.; TLC: Rf =0.18 (ethyl acetate:hexane=1:1); MS: (M)+ =269.

reactant | 5-amino-3-(4-methoxy-phenyl)-1H-pyrazole-4-carbonitrile | 8.16 mmol, 1.87 g | NC1=C(C(=NN1)C1=CC=C(C=C1)OC)C#N | C11H10N4O
reactant | N,N-dimethylformamide diethyl acetal | 9.1 mmol, 1.64 ml | C(C)OC(N(C)C)OCC | C7H17NO2
solvent | toluene | 33 ml | C1(=CC=CC=C1)C | C7H8
product | N'-[3-(4-methoxy-phenyl)-4-cyano-1H-pyrazol-5-yl]-N,N-dimethylformamidine | COC1=CC=C(C=C1)C1=NNC(=C1C#N)N=CN(C)C | C14H15N5O
